US03953500
To 120 ml. of carbon disulfide is added 54 g. of anhydrous aluminum chloride powder on an ice bath, followed by the dropwise addition of a solution of 11.4 g. of ethyl indan-1-carboxylate in 60 ml. of carbon disulfide. The mixture is stirred for 10 minutes, after which a solution of 42 g. of benzoyl chloride in 60 ml. of carbon disulfide is added dropwise. After the dropwise addition has been completed, the temperature is gradually increased and the solution is stirred on reflux for 3 hours and thirty minutes to complete the reaction. Ice and hydrochloric acid are added to the reaction mixture followed by extraction with ether. The extract is washed with 1N hydrochloric acid, water, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride in the order mentioned and, then, dried over anhydrous sodium sulfate. The solvent is then distilled off under reduced pressure and the residue is column-chromatographed on silica gel (conditions: 2 Kg. of silica gel; eluant solvent-benzene containing 2.5 % of ethyl acetate). The first-emerging fractions rich in ethyl 4-benzoylindan-1-carboxylate are pooled separate from the ensuing fractions rich in ethyl 6-benzoylindan-1-carboxylate. The former fractions are further purified by rechromatography on a column of silica gel, whereby ethyl 4-benzoylindan-1-carboxylate is obtained as an oily product.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl indan-1-carboxylate | C1(CCC2=CC=CC=C12)C(=O)OCC | C12H14O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | carbon disulfide | C(=S)=S | CS2
product | ethyl 4-benzoylindan-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)OCC | C19H18O3
